* A dual LM13700 OTA ngspice model (for KiCAD symbol)
* file name: LM13700-dual.lib
*
* nodes are ordered in the same way as the KiCAD LM13700 Symbol pins are ordered. 
.subckt LM13700 1ampbias 1diodebias 1posin 1negin 1out negpwr 1bufin 1bufout 2bufout 2bufin pospwr 2out 2negin 2posin 2diodebias 2ampbias
.include LM13700.mod

* since KiCAD organizes the LM13700 symbol into 5 units (2 OTAs, 2 Buffers, 1 Pwr)
* we break out each unit here and map the input pins (nodes) to the individual instances

* map pins to Unit A (OTA 1)
XU1A 2ampbias 2diodebias 2posin 2negin 2out negpwr 2bufin 2bufout pospwr LM13700/NS

* map pins to Unit B (buffer 1)
XU1B 2ampbias 2diodebias 2posin 2negin 2out negpwr 2bufin 2bufout pospwr LM13700/NS

* map pins to Unit C (OTA 2)
XU1C 1ampbias 1diodebias 1posin 1negin 1out negpwr 1bufin 1bufout pospwr LM13700/NS

* map pins to Unit D (buffer 2)
XU1D 1ampbias 1diodebias 1posin 1negin 1out negpwr 1bufin 1bufout pospwr LM13700/NS

* map pins to Unit E (power supply)
* note: we arbitrarily chose the unit1 specific nodes (we only really care about the power nodes here)
XU1E 1ampbias 1diodebias 1posin 1negin 1out negpwr 1bufin 1bufout pospwr LM13700/NS
.ends
