* A quad LM324 OpAmp (for KiCAD symbol)
*
* nodes are ordered in the same way as the KiCAD Quad OpAmp Symbol pins are ordered. 
.subckt LM324 out1 negin1 posin1 pospwr posin2 negin2 out2 out3 negin3 posin3 negpwr posin4 negin4 out4
.include lmx24_lm2902.lib

* since KiCAD organizes the OpAmp symbol into 5 units (4 OpAmpsb, 1 Pwr)
* we break out each unit here and map the input pins (nodes) to the individual instances

* map pins to Unit A (OpAmp1)
XU1A posin1 negin1 pospwr negpwr out1 LM324_single

* map pins to Unit B (OpAmp2)
XU1B posin2 negin2 pospwr negpwr out2 LM324_single

* map pins to Unit C (OpAmp3)
XU1C posin3 negin3 pospwr negpwr out3 LM324_single

* map pins to Unit D (OpAmp4)
XU1D posin4 negin4 pospwr negpwr out4 LM324_single

* map pins to Unit E (power supply)
* note: we arbitrarily chose the unit1 specific nodes (we only really care about the power nodes here)
XU1E posin1 negin1 pospwr negpwr out1 LM324_single
.ends

